US03954741
A solution of 50.5 g. (0.227 mole) of N-acetyl-5-bromovaleramide and 64.6 g. (0.274 mole) of triphenylphosphine in 250 ml. of xylene was heated at reflux under nitrogen for 4 hours then was let cool to room temperature. The xylene was decanted from the resulting oil which was recyrstallized from methylene chloride:ethyl acetate to afford colorless needles of [4-(acetylaminocarbonyl)butyl]triphenylphosphonium bromide weighing 50.2 g. (45.7% yield) melting at 164°-165°.

reactant | N-acetyl-5-bromovaleramide | 0.227 mole | C(C)(=O)NC(CCCCBr)=O | C7H12BrNO2
reactant | triphenylphosphine | 0.274 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | [4-(acetylaminocarbonyl)butyl]triphenylphosphonium bromide | 50.2 g, 45.7% yield | [Br-].C(C)(=O)NC(=O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H26NO2P.BrH/c1-21(27)26-25(28)19-11-12-20-29(22-13-5-2-6-14-22,23-15-7-3-8-16-23)24-17-9-4-10-18-24;/h2-10,13-18H,11-12,19-20H2,1H3;1H
